US09353066B2
A mixture of PdCl2 (dppf)—dichloromethane adduct (40.8 mg, 0.050 mmol), 1-fluoro-3-iodo-5-nitrobenzene (267 mg, 1.00 mmol), {4-[(1S)-2,2-difluoro-1-hydroxyethyl]phenyl}boronic acid (222 mg, 1.10 mmol), sodium carbonate (1.50 mL, 3.00 mmol) and DMF (5 mL) was degassed by sparging with nitrogen and then heated to 85° C. for 3 hours. Upon cooling to room temperature, the reaction mixture was diluted with water, and aqueous NH4Cl, extracted with ethyl acetate, washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by silica gel column chromatography (ethyl acetate/hexanes) to give (1S)-2,2-difluoro-1-(3′-fluoro-5′-nitrobiphenyl-4-yl)ethanol. MS ESI calc'd. for C14H11F3NO3[M+H]+ 298, found 298.

reactant | 1-fluoro-3-iodo-5-nitrobenzene | 1.00 mmol, 267 mg | FC1=CC(=CC(=C1)[N+](=O)[O-])I | C6H3FINO2
reactant | {4-[(1S)-2,2-difluoro-1-hydroxyethyl]phenyl}boronic acid | 1.10 mmol, 222 mg | FC([C@@H](O)C1=CC=C(C=C1)B(O)O)F | C8H9BF2O3
reactant | sodium carbonate | 3.00 mmol, 1.50 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (1S)-2,2-difluoro-1-(3′-fluoro-5′-nitrobiphenyl-4-yl)ethanol | FC([C@@H](O)C1=CC=C(C=C1)C1=CC(=CC(=C1)[N+](=O)[O-])F)F | C14H10F3NO3
